Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain due to fall 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ male with a history of early Alzheimer's, spinal
stenosis, hypertension, hyperlipidemia who presents 2 days after
a fall from a stationary bike.  Patient says that he was riding 
a
stationary bike in jeans and when he tried to dismount from the
bike his jeans got caught on the side of the bike, he fell and
the bike fell on him.  He denies any head strike or loss of
consciousness.  He says that he was not feeling lightheaded,
dizzy, chest pains, palpitations.  He says at the time he noted
some right rib pain but but felt well until early ___ morning
when the pain became excruciating.  He came into the ED for
evaluation.

Here the patient is afebrile with normal vital signs, right hip
tenderness and unremarkable labs.  He has a CT scan that shows
minimally displaced right lateral eighth and ninth rib fractures
with no associated pneumothorax or hemothorax.

 
Past Medical History:
Spinal stenosis
Alzheimer's
Hypertension
Hyperlipidemia

 
Social History:
___
Family History:
___
 
Physical Exam:
On admission:
Physical exam:
97.7  69  149/71  15  96RA
General: NAD
HEENT: pupils equal round and reactive
CV: Regular rate and rhythm
Respiratory/chest: Easy work of breathing
Tender to palpation of the right anterior lateral thorax
Abdomen: Soft, nontender nondistended
Extremities: Old abrasion left lower extremity, right abrasion
right knee
Flank: Right flank with old wound per patient from heating pad
about 0.5 cm ulcer with a clean base

At discharge:
Gen: [X] NAD, [] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [] tender, [] rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [X] warm, [] tender, [] edema

VITALS:
___: Weight: 179 (Estimated) (Entered in Nursing IPA)

 
Pertinent Results:
___ 04:10PM BLOOD WBC-8.6 RBC-4.68 Hgb-15.0 Hct-44.0 MCV-94 
MCH-32.1* MCHC-34.1 RDW-13.5 RDWSD-45.9 Plt ___
___ 04:10PM BLOOD Neuts-79.9* Lymphs-8.8* Monos-9.8 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-6.84* AbsLymp-0.75* 
AbsMono-0.84* AbsEos-0.06 AbsBaso-0.03
___ 04:10PM BLOOD Plt ___
___ 04:10PM BLOOD ___ PTT-24.3* ___
___ 04:10PM BLOOD Glucose-92 UreaN-17 Creat-0.9 Na-143 
K-4.1 Cl-103 HCO3-26 AnGap-14
___ 04:10PM BLOOD ALT-30 AST-33 AlkPhos-80 TotBili-1.0
___ 04:10PM BLOOD Lipase-27
___ 04:10PM BLOOD Albumin-4.2
 
Brief Hospital Course:
Mr. ___ was admitted after ACS was consulted in the 
Emergency department (see HPI), On ___hest showed  
acute, minimally displaced fractures of the right lateral eighth 
and ninth ribs. No pneumothorax or pulmonary contusion 

On the floor patient's pain was well controlled with PO Tylenol 
and Tramadol.
His home medicines were restarted. On ___ ___ was consulted and 
worked with the patient, due to pain being well controlled, 
ambulating without assistance patient was discharged home. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. meloxicam 7.5 mg oral DAILY 
2. Tizanidine 2 mg PO BID 
3. Sertraline 100 mg PO DAILY 
4. losartan-hydrochlorothiazide 100-12.5 mg oral DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Donepezil 10 mg PO QHS 
7. Aspirin 81 mg PO DAILY 
8. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  TraMADol 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  Donepezil 10 mg PO QHS  
6.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
7.  losartan-hydrochlorothiazide 100-12.5 mg oral DAILY  
8.  meloxicam 7.5 mg oral DAILY  
9.  Sertraline 100 mg PO DAILY  
10.  Tizanidine 2 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fall with minimally displaced rib fractures of R 8th rib 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused a rib fracture which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___